US07105567B2
By the reaction and treatment in the same manner as in Example 2 using [(4-nitrophenyl)methyl](4-octylphenyl)amine (2.6 g) and 2,6-diisopropylphenyl isocyanate (1.55 g) as starting materials, N′-(2,6-diisopropylphenyl)-N-[(4-nitrophenyl)methyl]-N-(4-octylphenyl)urea (0.27 g) was obtained.

reactant | [(4-nitrophenyl)methyl](4-octylphenyl)amine | 2.6 g | [N+](=O)([O-])C1=CC=C(C=C1)CNC1=CC=C(C=C1)CCCCCCCC | C21H28N2O2
reactant | 2,6-diisopropylphenyl isocyanate | 1.55 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
product | N′-(2,6-diisopropylphenyl)-N-[(4-nitrophenyl)methyl]-N-(4-octylphenyl)urea | 0.27 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(N(C1=CC=C(C=C1)CCCCCCCC)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C34H45N3O3
